US05614527
Afterward, a mixture of 1.00 g Of N-[(tetrahydro-2-furanyl) methyl]ethylenediamine, 0.77/g of S-methyl-N-nitroisothiourea, 0.1 g of N,N-dimethylaminopyridine (DMAP) and 10 ml of ethanol was refluxed. After the completion of reaction, ethyl acetate was added, and insolubles were then removed by filtration. The filtrate was concentrated under a reduced pressure, and the precipitated crystals were then removed by filtration. Next, the filtrate was concentrated under a reduced pressure, and the resultant residue was purified by silica gel column chromatography (1:2 acetone/ethyl acetate) to obtain 0.25 g of 1-[(tetrahydro-2-furanyl) methyl]-2(nitroimino)imidazolidine as a pale yellow oil.

reactant | N-[(tetrahydro-2-furanyl) methyl]ethylenediamine | 1.00 g | O1C(CCC1)CNCCN | C7H16N2O
reactant | S-methyl-N-nitroisothiourea | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[(tetrahydro-2-furanyl) methyl]-2(nitroimino)imidazolidine | 0.25 g | O1C(CCC1)CN1C(NCC1)=N[N+](=O)[O-] | C8H14N4O3
